US05527919
STAGE A: N-[(dimethylamino)-methylene]-4'-formyl-(1,1'-biphenyl)-2-sulfonamide
10 g of N-[(dimethylamino) methylene]4'-bromomethyl(1,1'-biphenyl)2-sulfonamide, 8.14 g of hexamethylene-tetramine and 80 ml of 50% acetic acid are were stirred for one hour at 120° C. and after the addition of 220 ml of water, the reaction mixture was neutralized with a saturated solution of sodium bicarbonate and extracted with dichloromethane. The extracts were dried and evaporated to obtain 7.99 g of the expected product.

reactant | N-[(dimethylamino) methylene]4'-bromomethyl(1,1'-biphenyl)2-sulfonamide | 10 g | CN(C)C=NS(=O)(=O)C=1C(=CC=CC1)C1=CC=C(C=C1)CBr | C16H17BrN2O2S
reactant | hexamethylene-tetramine | 8.14 g | C1N2CN3CN1CN(C2)C3 | C6H12N4
reactant | acetic acid | 80 ml | C(C)(=O)O | C2H4O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | water | 220 ml | O | H2O
product | N-[(dimethylamino)-methylene]-4'-formyl-(1,1'-biphenyl)-2-sulfonamide | 7.99 g | CN(C)C=NS(=O)(=O)C=1C(=CC=CC1)C1=CC=C(C=C1)C=O | C16H16N2O3S
